US08957074B2
Following general reductive alkylation method 1, 7-cyclopentyl-N,N-dimethyl-2-(5-((1R,6S)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (90 mg, 0.184 mmol) was combined with formaldehyde (37% solution in water, 0.041 ml, 1.474 mmol) which after silica gel chromatography gave 7-cyclopentyl-N,N-dimethyl-2-(5-((1R,6S)-9-methyl-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (90 mg) in 97% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.69 (s, 1H), 8.81 (s, 1H), 8.31 (d, J=9.09 Hz, 1H), 8.12 (d, J=2.53 Hz, 1H), 7.58 (dd, J=9.09, 2.53 Hz, 1H), 6.63 (s, 1H), 4.76 (m, 1H), 4.16 (d, J=14.65 Hz, 1H), 3.35 (m, 1H), 3.28 (m, 1H), 3.20 (t, J=6.57 Hz, 1H), 3.06 (br. s., 6H), 2.99 (m, 1H), 2.46 (m, 2H), 2.34 (s, 3H), 2.06 (m, 6H), 1.81 (m, 2H), 1.67 (m, 3H). MS m/z 503.6 (M+H)+.

reactant | 7-cyclopentyl-N,N-dimethyl-2-(5-((1R,6S)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.184 mmol, 90 mg | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C[C@H]1CC[C@@H](CC2=O)N1)C(=O)N(C)C | C26H32N8O2
reactant | formaldehyde | 1.474 mmol, 0.041 ml | C=O | CH2O
product | 7-cyclopentyl-N,N-dimethyl-2-(5-((1R,6S)-9-methyl-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 90 mg, 97% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C[C@H]1CC[C@@H](CC2=O)N1C)C(=O)N(C)C | C27H34N8O2
